* Z:\mnt\design.r\spice\examples\1622.asc
R1 OUT N007 159K
M§Q1 N008 N005 N002 N002 FDC638P
L1 N008 OUT 4.7µ
D1 0 N008 1N5818
C1 N006 0 470p
C2 N003 0 220µ
R2 N004 N003 10K
V1 IN 0 3.3
R3 N007 0 75K
R4 IN N002 .03
C3 OUT 0 47µ Rser=.1
Rload OUT 0 5
XU1 N002 N004 N007 N006 N001 0 N005 IN LTC1622
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
.lib LTC1622.sub
.backanno
.end
