* Z:\mnt\design.r\spice\examples\1624.asc
L1 N007 OUT 10µ Rser=0.002
M§Q1 N001 N005 N007 N007 Si4412DY
V1 IN 0 12
C1 OUT 0 500µ Rser=0.1
C3 N003 N004 470p
R1 N006 0 20K
R2 OUT N006 35.7K
R3 0 N003 6.8K
D1 0 N007 MBRS340
C4 N002 N007 .1µ
C5 IN N001 1000p
XU1 N001 N004 N006 0 N007 N005 N002 IN LTC1624
R4 IN N001 .05
Rload OUT 0 3
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
.lib LTC1624.sub
.backanno
.end
