* Z:\mnt\design.r\spice\examples\1629.asc
M§Q1 IN N004 N007 N007 IRF7811
C1 N006 N007 .47µ
M§Q2 N007 N011 0 0 IRF7809A
D1 N001 N006 MBR0520L
L1 N007 N008 1µ
R1 N008 OUT .003
D2 0 N007 MBRS130L
C2 N016 N017 .47µ
L2 N017 N018 1µ
C3 OUT 0 1000µ Rser=10m x2
R2 N019 0 16K
R3 N020 N019 16K
C4 N014 N013 1000p
R4 N013 0 3.3K
C5 N012 0 250p
V1 IN 0 6
R5 N018 OUT .003
C6 N001 0 1µ
M§Q3 IN N015 N017 N017 IRF7811
M§Q4 N017 N021 0 0 IRF7809A
D3 0 N017 MBRS130L
D4 N001 N016 MBR0520L
XU1 N012 N008 OUT N019 N010 N009 N003 N014 0 N020 0 OUT OUT N018 0 N015 N017 N016 N021 0 N001 N002 N011 IN N006 N007 N004 N005 LTC1629
Rload OUT 0 .1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 750u startup
.lib LTC1629.sub
.backanno
.end
