* Z:\mnt\design.r\spice\examples\1645.asc
R1 IN2 N001 5m
M§Q1 N001 N002 OUT2 OUT2 IRF7413
R2 N002 N005 10
M§Q2 N003 N004 OUT1 OUT1 IRF7413
R3 IN1 N003 5m
C1 N005 0 0.01µ
V1 IN2 0 PWL(0 0 10m 3.3 570ms 3.3 +1m 0 +20m 0 +1m 3.3 830m 3.3 +1m 0 +100m 0 +1m 3.3)
V2 IN1 0 PWL(0 0 10m 5 570m 5 +1m 0 +20m 0 +1m 5 850m 5 +1m 0 +100m 0 +1m 5)
V3 N008 0 PWL(0 0 40m 0 +1m 3.3 360m 3.3 +1m 0 400m 0 +1m 3.3 500m 3.3 +1m 0 525m 0 +1m 1.2 720m 1.2 +1m 3.3)
V4 N010 0 3.3
R4 N013 N010 3.01K
C2 OUT1 0 30µ
C3 N011 0 0.1µ
C4 OUT2 0 30µ
R5 N011 N012 10K
XU1 IN2 N001 N005 N013 N009 N007 0 NC_01 NC_02 N008 N012 N006 N003 IN1 LTC1645
R6 N004 N006 10
C5 N006 0 0.01µ
R7 OUT1 N007 14.3K
R8 N007 0 10K
R9 N010 N009 3.01K
Rload1 OUT2 0 2
Rload2 OUT1 0 2
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.lib LTC1645.sub
.backanno
.end
