* Z:\mnt\design.r\spice\examples\1701.asc
XU1 N001 0 N004 N003 IN LTC1701
D1 0 N001 1N5817
L1 N001 OUT 4.7µ
C1 OUT 0 47µ Rser=.1
R1 OUT N004 121K
R2 N004 0 121K
R3 IN N003 1Meg
R4 N003 N002 5.1K
V1 IN 0 5
C2 N002 0 330p
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .5m startup
.lib LTC1701.sub
.backanno
.end
