* Z:\mnt\design.r\spice\examples\1772.asc
L1 N006 OUT 4.7µ
V1 IN 0 5
C1 OUT 0 47µ Rser=.1
C2 N003 N002 220p
R1 N001 IN 0.03
R2 N005 0 78.7K
R3 OUT N005 169K
R4 N002 0 10K
M§Q1 N006 N004 N001 N001 FDC638P
Rload OUT 0 2
XU1 N003 0 N005 N001 IN N004 LTC1772
D1 0 N006 MBRS340
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 250u startup
.lib LTC1772.sub
.backanno
.end
