* Z:\mnt\design.r\spice\examples\1773.asc
L1 N005 OUT 5µ
R1 OUT N006 169K
R2 0 N006 80.6K
V1 IN 0 5
C1 OUT 0 180µ Rser=.1
XU1 N004 N003 IN N006 0 N007 N002 IN N001 N005 LTC1773
M§Q1 N005 N002 N001 N001 FDC638P
M§Q2 N005 N007 0 0 IRF7201
R3 IN N001 .025
C3 N004 0 220p Rser=30K
C4 N003 0 .001µ
Rload OUT 0 2
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
.lib LTC1773.sub
.backanno
.end
