* Z:\mnt\design.r\spice\examples\1778.asc
R1 IN N001 1.4Meg
R2 OUT N010 30.1K
R3 N010 0 14K
D1 N009 N007 MBR0530L
C1 N009 0 4.7µ
D2 0 N005 MBRS340
M§Q1 IN N003 N005 N005 Si4884DY
L1 N005 OUT 1.8µ Rpar=100K
C2 OUT 0 180µ Rser=.05 x2
R4 N012 N011 20K
C3 N011 0 500p
R5 IN N014 3.3K
V1 IN 0 6
C4 N006 0 .001µ
XU1 N006 N014 N008 N004 N012 0 N001 N010 N002 IN N009 N013 0 N005 N003 N007 LTC1778
C5 N005 N007 .22µ
M§Q2 N005 N013 0 0 Si4874DY
Rload OUT 0 .3
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2.5m startup
.lib LTC1778.sub
.backanno
.end
