* Z:\mnt\design.r\spice\examples\1779.asc
V1 IN 0 5
XU1 N002 0 N004 N003 IN N005 LTC1779
R1 IN N003 2
D1 0 N005 1N5818
L1 N005 OUT 22µ Rpar=10K
C1 OUT 0 47µ x2
R2 OUT N004 169K
R3 N004 0 78.7K
Rload OUT 0 10
C2 0 N001 500p
R5 N002 N001 10K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LTC1779.sub
.backanno
.end
