* Z:\mnt\design.r\spice\examples\1797.asc
V1 +V 0 5
V2 -V 0 -5
R1 OUT N003 10K
R2 N003 0 4.99K
XU1 N002 N003 +V -V OUT LT1797
XU2 IN N001 +V -V N002 LT1028
R3 N002 P001 1K
C1 P001 N001 2200p
R4 N001 0 10
V3 IN 0 sine(0 10m 1K)
R5 OUT N001 4.87K tol=1 pwr=0.1
.tran 3m
* Ultra-Low Noise ±5V Supply, Rail-to-Rail Output Amplier
.lib LTC.lib
.backanno
.end
