* Z:\mnt\design.r\spice\examples\1799.asc
R1 N001 N002 10K
V1 N001 0 3
XU1 N001 0 N002 0 OUT LTC1799
.tran 10u
.lib LTC1799.sub
.backanno
.end
