* Z:\mnt\design.r\spice\examples\1842.asc
V1 N001 0 5
V2 N002 0 PULSE(0 3.3 0 .5m .5m 0 1m)
R1 N001 N003 10K
XU1 N004 0 N002 N002 N006 N005 N001 N003 LTC1842
R2 N001 N004 10K
.tran 3m
.lib LTC1.lib
.backanno
.end
