* Z:\mnt\design.r\spice\examples\1877.asc
V1 IN 0 5
C1 N003 0 220p
C2 OUT 0 47µ Rser=.1
C3 OUT N002 20p
L1 N001 OUT 10µ
R1 OUT N002 887K
R2 N002 0 280K
Rload OUT 0 10
XU1 IN N003 N002 0 N001 IN IN LTC1877
.tran 750u startup
.lib LTC1877.sub
.backanno
.end
