* Z:\mnt\design.r\spice\examples\1910.asc
V1 N004 0 PULSE(0 5 0 1u 1u .5 1)
XU1 0 N006 N002 N004 N007 N005 MP_01 N003 LT1910
M§Q1 N005 N007 N008 N008 FDS6612A
R1 N003 N005 10m
V2 N003 0 24
V3 N001 0 5
R2 N002 N001 10K
C1 N006 0 .01µ
C2 N008 0 20µ
R3 N008 0 5K
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3 startup
.lib LT1910.sub
.backanno
.end
