* Z:\mnt\design.r\spice\examples\1944.asc
XU1 N003 IN 0 IN N004 N002 0 IN 0 N001 LT1944
L1 IN N002 10µ Rpar=10K
L2 IN N001 4.7µ Rpar=2K
R1 OUT1 N003 1Meg
R2 N003 0 324K
D1 N001 OUT1 1N5819
R3 OUT2 N004 2Meg
R4 N004 0 86.6K
D2 N002 OUT2 MBRS360
C1 OUT2 0 1µ
C2 OUT1 0 10µ
V1 IN 0 3.5
Rload2 OUT2 0 3.75K
Rload1 OUT1 0 62.5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 200u startup
.lib LT1944.sub
.backanno
.end
