* Z:\mnt\design.r\spice\examples\1945.asc
L1 IN N003 10µ Rpar=10K
L2 IN N002 10µ Rpar=2K
R1 OUT1 N004 365K
R2 N004 0 24.9K
D1 OUT1 N001 1N5819
R3 OUT2 N005 1Meg
R4 N005 0 115K
D2 N003 OUT2 MBRS360
C1 OUT2 0 1µ
C2 OUT1 0 1µ
Rload2 OUT2 0 1K
Rload1 OUT1 0 2K
V1 IN 0 3.5
C3 N002 N001 .1µ
D3 N001 0 1N5819
XU1 N004 IN 0 IN N005 N003 0 IN 0 N002 LT1945
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT1945.sub
.backanno
.end
