* Z:\mnt\design.r\spice\examples\1961.asc
L1 IN N002 6.8µ Rpar=10K
D1 N002 OUT 1N5819
R1 OUT N005 90.9K
R2 N005 0 10K
C1 OUT 0 10µ
C2 0 N004 100p
C3 N003 0 6800p
R3 N004 N003 6.8K
V1 IN 0 5
XU1 IN N002 0 MP_01 N001 N005 N004 LT1961
Rload OUT 0 24
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LT1961.sub
.backanno
.end
