* Z:\mnt\design.r\spice\examples\1982.asc
V1 N002 0 3.3
V2 N004 0 PULSE(0 3 .7m 100n 100n 2.5m 5m)
M§Q1 N002 N003 N006 N006 Si4838DY
R1 0 N006 10
XU1 N001 0 N004 N005 N003 N002 LTC1982
V3 N001 0 PULSE(0 3 0 100n 100n 2.5m 5m)
M§Q2 N002 N005 N007 N007 Si4838DY
R2 0 N007 10
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20m startup
.lib LTC1982.sub
.backanno
.end
