* Z:\mnt\design.r\spice\examples\1991.asc
V1 -V 0 -5
V2 +V 0 +5
XU1 N001 NC_01 NC_02 -V 0 OUT +V NC_03 NC_04 0 LT1991
V4 N001 0 SINE(0 .1 100)
.tran .1
.lib LTC1.lib
.backanno
.end
