* Z:\mnt\design.r\spice\examples\1996.asc
V1 -V 0 -5
V2 +V 0 +5
V4 N001 0 SINE(0 1m 10)
XU1 NC_01 NC_02 N001 -V 0 OUT +V 0 NC_03 NC_04 LT1996
.tran .5
.lib LTC1.lib
.backanno
.end
