* Z:\mnt\design.r\spice\examples\2905.asc
V1 N002 0 PWL(0 0 1u 5)
V2 N001 0 PWL(0 0 1u 3.3)
C1 N003 0 .039µ
R1 N005 N004 100K
V3 N005 0 5
XU1 0 N004 N003 N001 N002 N002 N002 N002 LTC2905
.tran 400m
.lib LTC2905.sub
.backanno
.end
