* Z:\mnt\design.r\spice\examples\2907.asc
V1 N002 0 PWL(0 0 1m 2.5)
V2 N001 0 PWL(0 0 1m .8)
C1 N004 0 .022µ
R1 N006 N005 100K
V3 N006 0 5
R2 N001 N003 49.9K
R3 N003 0 100K
C2 N003 0 .1µ
XU1 0 N005 N004 N002 N002 N003 0 0 LTC2907
.tran 400m
.lib LTC2907.sub
.backanno
.end
